* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.00010542112918114475
Fd1_1 0 s1 V1 0.005271056459057237
Gr1_1_1 0 s1 x1_a1 0 -1983113036.7241557
Gr2_re_1_1 0 s1 x2_re_a1 0 -160916757585.2113
Gr2_im_1_1 0 s1 x2_im_a1 0 710215662565.2926
Gr3_1_1 0 s1 x3_a1 0 1189377891910.8657
Gd1_2 0 s1 p2 0 1.4450669246404045e-05
Fd1_2 0 s1 V2 0.0007225334623202022
Gr1_1_2 0 s1 x1_a2 0 353769238.3193328
Gr2_re_1_2 0 s1 x2_re_a2 0 91328602561.18306
Gr2_im_1_2 0 s1 x2_im_a2 0 -172569906103.84756
Gr3_1_2 0 s1 x3_a2 0 -338658947013.0341
Gd1_3 0 s1 p3 0 -3.975973269650045e-05
Fd1_3 0 s1 V3 -0.001987986634825023
Gr1_1_3 0 s1 x1_a3 0 756355528.2406895
Gr2_re_1_3 0 s1 x2_re_a3 0 -448002630060.4671
Gr2_im_1_3 0 s1 x2_im_a3 0 -659171169319.9698
Gr3_1_3 0 s1 x3_a3 0 738447050604.089
Gd1_4 0 s1 p4 0 -2.882632501672087e-05
Fd1_4 0 s1 V4 -0.0014413162508360436
Gr1_1_4 0 s1 x1_a4 0 356914823.4397519
Gr2_re_1_4 0 s1 x2_re_a4 0 50039398343.871216
Gr2_im_1_4 0 s1 x2_im_a4 0 -57714892741.06178
Gr3_1_4 0 s1 x3_a4 0 -133506775595.25516
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 3.3463666507411757e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 3.4144750713203257e-13
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 4030720581535.8604
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -4030720581535.8604
Rp2_im_im_a1 0 x2_im_a1 3.4144750713203257e-13
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 2.304430119158054e-13
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 1.4339762790942053e-05
Fd2_1 0 s2 V1 0.0007169881395471027
Gr1_2_1 0 s2 x1_a1 0 388340124.1284398
Gr2_re_2_1 0 s2 x2_re_a1 0 92265689045.28351
Gr2_im_2_1 0 s2 x2_im_a1 0 -172762267773.76154
Gr3_2_1 0 s2 x3_a1 0 -340178370494.1822
Gd2_2 0 s2 p2 0 0.0001060695848168001
Fd2_2 0 s2 V2 0.005303479240840005
Gr1_2_2 0 s2 x1_a2 0 -1806873183.3515255
Gr2_re_2_2 0 s2 x2_re_a2 0 -142375509417.0207
Gr2_im_2_2 0 s2 x2_im_a2 0 667488039080.7869
Gr3_2_2 0 s2 x3_a2 0 1108672009856.179
Gd2_3 0 s2 p3 0 -2.8214270728440715e-05
Fd2_3 0 s2 V3 -0.0014107135364220358
Gr1_2_3 0 s2 x1_a3 0 331507307.45109296
Gr2_re_2_3 0 s2 x2_re_a3 0 47373512747.8214
Gr2_im_2_3 0 s2 x2_im_a3 0 -53627009800.13039
Gr3_2_3 0 s2 x3_a3 0 -124895444189.35236
Gd2_4 0 s2 p4 0 -4.368635836149216e-05
Fd2_4 0 s2 V4 -0.0021843179180746084
Gr1_2_4 0 s2 x1_a4 0 822313943.7517515
Gr2_re_2_4 0 s2 x2_re_a4 0 -445463693501.46436
Gr2_im_2_4 0 s2 x2_im_a4 0 -677213375957.9186
Gr3_2_4 0 s2 x3_a4 0 710577641505.4386
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 3.3463666507411757e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 3.4144750713203257e-13
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 4030720581535.8604
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -4030720581535.8604
Rp2_im_im_a2 0 x2_im_a2 3.4144750713203257e-13
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 2.304430119158054e-13
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 -4.7788880584380686e-05
Fd3_1 0 s3 V1 -0.0023894440292190344
Gr1_3_1 0 s3 x1_a1 0 842347728.5333605
Gr2_re_3_1 0 s3 x2_re_a1 0 -428191765002.58215
Gr2_im_3_1 0 s3 x2_im_a1 0 -670877324003.7728
Gr3_3_1 0 s3 x3_a1 0 700738558747.8079
Gd3_2 0 s3 p2 0 -2.8636373418747738e-05
Fd3_2 0 s3 V2 -0.0014318186709373869
Gr1_3_2 0 s3 x1_a2 0 331995884.33664006
Gr2_re_3_2 0 s3 x2_re_a2 0 52480346776.30649
Gr2_im_3_2 0 s3 x2_im_a2 0 -55756027669.339615
Gr3_3_2 0 s3 x3_a2 0 -133015210079.84935
Gd3_3 0 s3 p3 0 -7.580237958380624e-05
Fd3_3 0 s3 V3 -0.003790118979190312
Gr1_3_3 0 s3 x1_a3 0 811289482.4916767
Gr2_re_3_3 0 s3 x2_re_a3 0 -16579417850.584719
Gr2_im_3_3 0 s3 x2_im_a3 0 -608842239632.0466
Gr3_3_3 0 s3 x3_a3 0 -836837836148.0565
Gd3_4 0 s3 p4 0 4.11609394233937e-05
Fd3_4 0 s3 V4 0.002058046971169685
Gr1_3_4 0 s3 x1_a4 0 -1075862034.6938944
Gr2_re_3_4 0 s3 x2_re_a4 0 51082782903.952576
Gr2_im_3_4 0 s3 x2_im_a4 0 172975223578.23593
Gr3_3_4 0 s3 x3_a4 0 200190778664.85437
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.07071067811865475
Fx1_a3 0 x1_a3 V3 3.5355339059327378
Rp1_a3 0 x1_a3 3.3463666507411757e-12
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 3.4144750713203257e-13
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 4030720581535.8604
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -4030720581535.8604
Rp2_im_im_a3 0 x2_im_a3 3.4144750713203257e-13
Cx3_a3 x3_a3 0 1.0
Gx3_a3 0 x3_a3 p3 0 0.07071067811865475
Fx3_a3 0 x3_a3 V3 3.5355339059327378
Rp3_a3 0 x3_a3 2.304430119158054e-13
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 -2.864885460565988e-05
Fd4_1 0 s4 V1 -0.0014324427302829941
Gr1_4_1 0 s4 x1_a1 0 350620936.56268877
Gr2_re_4_1 0 s4 x2_re_a1 0 52166535907.78881
Gr2_im_4_1 0 s4 x2_im_a1 0 -57522358239.68615
Gr3_4_1 0 s4 x3_a1 0 -135314975166.4434
Gd4_2 0 s4 p2 0 -4.7047210473922794e-05
Fd4_2 0 s4 V2 -0.00235236052369614
Gr1_4_2 0 s4 x1_a2 0 853612610.2270162
Gr2_re_4_2 0 s4 x2_re_a2 0 -434924450958.2571
Gr2_im_4_2 0 s4 x2_im_a2 0 -674513156534.1821
Gr3_4_2 0 s4 x3_a2 0 703419095652.8362
Gd4_3 0 s4 p3 0 3.976792981753051e-05
Fd4_3 0 s4 V3 0.0019883964908765255
Gr1_4_3 0 s4 x1_a3 0 -1043308992.4440845
Gr2_re_4_3 0 s4 x2_re_a3 0 51698483928.5968
Gr2_im_4_3 0 s4 x2_im_a3 0 168206144446.80475
Gr3_4_3 0 s4 x3_a3 0 192657596187.4927
Gd4_4 0 s4 p4 0 -6.091577726527464e-05
Fd4_4 0 s4 V4 -0.003045788863263732
Gr1_4_4 0 s4 x1_a4 0 494367145.68948185
Gr2_re_4_4 0 s4 x2_re_a4 0 -12829012074.827972
Gr2_im_4_4 0 s4 x2_im_a4 0 -573510592382.8658
Gr3_4_4 0 s4 x3_a4 0 -788845549704.6926
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.07071067811865475
Fx1_a4 0 x1_a4 V4 3.5355339059327378
Rp1_a4 0 x1_a4 3.3463666507411757e-12
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 3.4144750713203257e-13
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 4030720581535.8604
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -4030720581535.8604
Rp2_im_im_a4 0 x2_im_a4 3.4144750713203257e-13
Cx3_a4 x3_a4 0 1.0
Gx3_a4 0 x3_a4 p4 0 0.07071067811865475
Fx3_a4 0 x3_a4 V4 3.5355339059327378
Rp3_a4 0 x3_a4 2.304430119158054e-13
.ENDS s_equivalent
