* Extracted by KLayout with SG13G2 LVS runset on : 23/02/2026 16:48

.SUBCKT lvs_tester gnd G D
M$1 gnd G D \$1 sg13_lv_nmos L=0.45u W=1u AS=0.34p AD=0.34p PS=2.68u PD=2.68u
R$2 \$1 gnd ptap1 A=0.6084p P=3.12u
.ENDS lvs_tester
